# Test of an electrothermal BJT

.options gyr=1e-4 maxdelta=100.
.analysis dc device=vdc:vb param=vdc start=0 stop=12 shell=1

.model mynpn svbjt_t (bf=200 vaf=100 ikf=10e-3 rb=1k)

vdc:vce 10 gnd vdc=12
res:rc 10 1 r=1k
vdc:vb 3 0 vdc=10
res:rb 3 2 r=96k

svbjt_t:q1 1 2 0 0 t1 gnd model=mynpn

res:rth t1 t2 r=100.
vdc:tamb t2 gnd vdc=27.C

.plot dc t1 
.plot dc 1 2 

.end


